US06891041B2
Production of 4-(4-Pyridylmethyl)-phthalazinone
500 g of phthalidyl-3-triphenylphosphonium chloride (1.160 mol) is suspended in 2250 ml of tetrahydrofaran (THF). At 5° C., 110.7 ml of pyridine-4-aldehyde (124.2 g, 1.160 mol) is added, and then 161.7 ml of triethylamine (117.4 g, 1.160 mol) is metered into the white suspension. After the addition is completed, the reaction mixture is stirred for 1 hour at 40° C., then mixed with 62.0 ml of hydrazine hydrate (63.9 g, 1.276 mol) and stirred for 8 hours at 70° C. Then, 32.7 ml of acetic acid anhydride (35.5 g, 0.348 mol) is added, and the stirring is continued for 2.5 hours at 20° C. Then, the reaction mixture is mixed first with 1500 ml of water, then with 367 ml of 4 M H2SO4 solution. About 2500 ml of THF/water is distilled off from this reaction solution in a vacuum. The suspension that is obtained is filtered via a glass frit. The filtrate is mixed with 50% sodium hydroxide solution up to a pH of 8.0 (about 185 ml). The precipitated product is filtered off, washed with 450 ml of water and dried at 60° C. 264.2 g (96% of theory) of a slightly yellowish solid is obtained.

reactant | pyridine-4-aldehyde | 1.160 mol, 110.7 ml, 124.2 g | N1=CC=C(C=C1)C=O | C6H5NO
reactant | triethylamine | 1.160 mol, 161.7 ml, 117.4 g | C(C)N(CC)CC | C6H15N
reactant | hydrazine hydrate | 1.276 mol, 62.0 ml, 63.9 g | O.NN
reactant | acetic acid anhydride | 0.348 mol, 32.7 ml, 35.5 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | H2SO4 | 4 M, 367 ml | OS(=O)(=O)O | H2O4S
reactant | THF | C1CCOC1 | C4H8O
solvent | water | 1500 ml | O | H2O
product | 4-(4-Pyridylmethyl)-phthalazinone | N1=CC=C(C=C1)CC1=NNC(C2=CC=CC=C12)=O | C14H11N3O
